### PR TITLE
G1 and G2 equivalence

### PR DESCRIPTION
**Pull request by KasperSNielsen**
This includes proving equivalence between gallina and fiat-crypto with fiat-crypto point equality for both G1 and G2.
There is also a proof for equivalence between gallina and hacspec for G1.

### CODE REVIEW

File: src/Hacspec/Curve/EquivToBedrock.v [hunk 1]
```diff
@@ -113,34 +163,339 @@ Proof. intros. reflexivity. Qed.
...
 Lemma mul_elim_mod: forall x y, (x mod m) *' (y mod m) = x *' y.
-Proof. intros. unfold my_mul. symmetry. apply Z.mul_mod. unfold m. congruence. Qed.
+Proof. intros. unfold my_mul. pull_Zmod. reflexivity. Qed.
 
 Lemma sub_elim_mod: forall x y, x mod m -' y mod m = x -' y.
-Proof. intros. unfold my_sub. symmetry. apply Zminus_mod. Qed.
+Proof. intros. unfold my_sub. pull_Zmod. reflexivity. Qed.
 
-Ltac helper := repeat (try rewrite add_eq; try rewrite mul_eq; try rewrite sub_eq; try rewrite val_eq; try rewrite add_elim_mod; try rewrite mul_elim_mod; try rewrite sub_elim_mod).
+Ltac znz_to_z_arith := unfold fp_a, fp_3_b; repeat (try rewrite add_eq; try rewrite mul_eq; try rewrite sub_eq; try rewrite val_eq; try rewrite add_elim_mod; try rewrite mul_elim_mod; try rewrite sub_elim_mod); rewrite <- a_small, <- three_b_small.
```
Comment (spitters) [inline src/Hacspec/Curve/EquivToBedrock.v]: An autorewrite database could be useful here.

**Comment by spitters** [comment]
Looks good to me. What do you think @RasmusHoldsbjergCSAU ?

Aside: The easy and now tactic are sometimes helpful and they check that subgoals are actually completed.
https://coq.inria.fr/refman/proofs/automatic-tactics/auto.html#coq:tacn.easy

**Comment by KasperSNielsen** [comment]
I've added a file CurveSpecsEquivalence.v that proves equivalence to fiat-crypto for an abstract field.

File: src/Theory/WordByWordMontgomery/CurveSpecsEquivalence.v [hunk 2]
```diff
@@ -0,0 +1,424 @@
...
+    Proof.
+            cbv [uw uweight ModOps.weight].
+            rewrite Z.div_1_r, Z.opp_involutive.
+            pose proof m_small as H. unfold r in H. rewrite Z.pow_mul_r; [auto| pose proof bw_big; lia| pose proof n_nz; lia].
+    Qed.
+
+    Lemma eval_list : forall x, x = x mod m -> eval (Partition.partition (uw bw) n x) = x.
+    Proof. intros. unfold eval.  rewrite eval_partition; [| apply uwprops, bw_big].
+        rewrite Zmod_small; auto.
+        assert (x < m). { rewrite H. apply Z_mod_lt. lia. }
```
Comment (spitters) [inline src/Theory/WordByWordMontgomery/CurveSpecsEquivalence.v]: You can use assert ... by ... here

**Comment by KasperSNielsen** [comment]
I've refactored the proof in EquivToBedrock to make use of the equivalence proof over abstract fields.

**Comment by spitters** [comment]
Nice. Thanks.

**Comment by KasperSNielsen** [comment]
This mainly includes a proof that hacspec point multiplication is equivalent to fiat-crypto point multiplication.
There is also some refactoring of the addition equivalence proof between hacspec and fiat-crypto, as well as an established connection between hacspec and gallina for G2 points.

File: src/Hacspec/Curve/EquivToBedrock.v [hunk 3]
```diff
@@ -309,15 +312,191 @@ Section G2Equiv.
...
+    Lemma same_p2_mul : forall x y, x *%2 y = x *m2 y.
+    Proof. intros [] []. unfold "*%2", "*m2", "*%", "-%", "+%". rewrite Quad_neg_one. cbn. 
+        apply pair_equal_spec. split; auto. field_simplify (f *m f1 +m (opp m (one m) *m f0) *m f2). reflexivity.
+    Qed.
+
+    Lemma same_p2_add : forall x y, x +%2 y = x +m2 y.
+    Proof. intros [] []. auto. Qed.
+
+    (* Translation from QuadraticFieldExtesions fp2 to hacspec fp2. Neccesary since the extension fields have been defined differently. *)
+    Program Definition to_hacspec_aff_p2 (x : fc_aff_p2_point) : g2_fc_point :=
```
Comment (spitters) [inline src/Hacspec/Curve/EquivToBedrock.v:362]: Why Program here?

**Comment by spitters** [comment]
Looks nice! Maybe you can add a bit more documentation?
@RasmusHoldsbjergCSAU What do you think?

File: src/Theory/WordByWordMontgomery/CurveSpecsEquivalence.v [hunk 4]
```diff
@@ -0,0 +1,424 @@
...
+        exists pout', fc_proj_eq pout pout' /\ gallina_spec_from_fc_point p1 p2 pout'.
+    Proof. intros. exists (fc_proj_add p1 p2 except).
+        split; [apply H|]. unfold gallina_spec_from_fc_point, BLS12_add_Gallina_spec, MontgomeryCurveSpecs.BLS12_add_Gallina_spec.
+        destruct p1 as [[[]]]. destruct p2 as [[[]]]. unfold fc_proj_add, proj1_sig, pair_val. 
+        repeat rewrite eval_encodemod_val. znz_to_z_arith. 
+        unfold three_b_list, a_list. rewrite (eval_list _ three_b_small), (eval_list _ a_small) . reflexivity.
+    Qed.
+End G1Equiv.
+
+Section G2Equiv.
```
Comment (RasmusHoldsbjergCSAU) [inline src/Theory/WordByWordMontgomery/CurveSpecsEquivalence.v:214]: Ideally the specifications and proofs should be general enough, that they cover both G1 and G2, as these are essentially the same function, just over different fields.
We should discuss how best to achieve this.

File: src/Hacspec/Curve/EquivToBedrock.v (hunk 3 above)
Comment (KasperSNielsen) [reply src/Hacspec/Curve/EquivToBedrock.v:362]: Because you have to prove that the curve-equation holds for the point that you return. The comment is a bit misleading. It is a function from fiat-crypto curve points over QuadraticFieldExtesions fp2 to fiat-crypto curve points over hacspec fp2.
